US04529604
A solution (150 ml.) of boron tribromide/methylene chloride (1 g./5 ml., 0.12 mole) was added to a solution of 5.0 g. (0.019 mole) of N,N-di-(n-propyl)-3,4-dimethoxyphenethylamine in 100 ml. of methylene chloride, cooled in an ice bath. The bath was removed and the reaction mixture was stirred at room temperature. Methanol (about 50 ml.) was added to the reaction mixture, with cooling, and the resulting solution was evaporated in vacuo. The residue crystallized to give 3,4-dihydroxy-N,N-di-(n-propyl)phenethylamine hydrobromide, m.p. 153.5°-154.5° C.

reactant | boron tribromide methylene chloride | 0.12 mole, 150 ml, 1 g | B(Br)(Br)Br.C(Cl)Cl
reactant | N,N-di-(n-propyl)-3,4-dimethoxyphenethylamine | 0.019 mole | C(CC)N(CCC)CCC1=CC(=C(C=C1)OC)OC | C16H27NO2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3,4-dihydroxy-N,N-di-(n-propyl)phenethylamine hydrobromide | Br.OC=1C=C(CCN(CCC)CCC)C=CC1O | InChI=1S/C14H23NO2.BrH/c1-3-8-15(9-4-2)10-7-12-5-6-13(16)14(17)11-12;/h5-6,11,16-17H,3-4,7-10H2,1-2H3;1H
